US06927228B2
(b) N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-3,4-diethoxy-N-methylbenzamide
In a manner similar to that of Example 1(g), starting with 360 mg (0.7 mmol) of N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-3,4-diethoxy-N-methylbenzamide in 15 ml of methanol, 150 mg (40%) of the desired product, with a melting point of 66° C., are obtained.

reactant | N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-3,4-diethoxy-N-methylbenzamide | 0.7 mmol, 360 mg | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC(=C(C=C1)OCC)OCC)=O)C | C29H28N2O5S
solvent | methanol | 15 ml | CO | CH4O
product | N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-3,4-diethoxy-N-methylbenzamide | 150 mg, 40% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC(=C(C=C1)OCC)OCC)=O)C | C29H30N2O5S
